US08541592B2
A 5 mL vial was charged with 2-((1S,2S)-2-(benzyloxy)cyclohexylamino)-5-isopropyl-5-methylthiazol-4(5H)-one (0.100 g, 0.28 mmol) and 1 mL of DCM. To this was added iodotrimethylsilane (0.22 g, 1.1 mmol). The vial was sealed and heated at 65° C. for 36 h. The reaction was concentrated and purified by column chromatography (2% to 7% MeOH/DCM) to give 2-((1S,2S)-2-hydroxycyclohexylamino)-5-isopropyl-5-methylthiazol-4(5H)-one as a yellow solid

reactant | 2-((1S,2S)-2-(benzyloxy)cyclohexylamino)-5-isopropyl-5-methylthiazol-4(5H)-one | 0.28 mmol, 0.100 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](CCCC1)NC=1SC(C(N1)=O)(C)C(C)C | C20H28N2O2S
reactant | iodotrimethylsilane | 1.1 mmol, 0.22 g | I[Si](C)(C)C | C3H9ISi
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-((1S,2S)-2-hydroxycyclohexylamino)-5-isopropyl-5-methylthiazol-4(5H)-one | O[C@@H]1[C@H](CCCC1)NC=1SC(C(N1)=O)(C)C(C)C | C13H22N2O2S
